US09119868B2
Step 4: 6-(N-(4-bromo-3-(difluoromethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
Sodium nitrite (0.12 g, 1.75 mmol) was added to a 0° C. solution of 6-(N-(4-amino-3-(difluoromethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (0.87 g, 1.59 mmol) in acetonitrile (10 ml) and aq HBr (48%) (10 mL). The reaction mixture was stirred for 30 min at 0° C. and copper (I) bromide (0.27 g, 1.91 mmol) was added. The reaction mixture was stirred at 75° C. for 2 h and diluted with EtOAc and water. The organic layer was washed with brine, dried (Na2SO4), filtered, evaporated and purified by silica gel chromatography (0-50% EtOAc/hexanes) to afford the title compound (0.38 g, 39%) as a white foam. LCMS (m/z, ES+)=607, 609 (M+H+).

reactant | Sodium nitrite | 1.75 mmol, 0.12 g | N(=O)[O-].[Na+]
reactant | 6-(N-(4-amino-3-(difluoromethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 1.59 mmol, 0.87 g | NC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)C(F)F | C27H24F3N3O4S
reactant | HBr | 10 mL | Br | BrH
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
catalyst | copper (I) bromide | 1.91 mmol, 0.27 g | [Cu]Br
product | 6-(N-(4-bromo-3-(difluoromethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.38 g, 39% | BrC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)C(F)F | C27H22BrF3N2O4S
